// Nanopore + DT TIA Testbench: devices/nanopore/testbenches/standalone/tb_singleporeG_DT.scs
// Sebastian Claudiusz Magierowski May 10 2026
//
// Derived from original Virtuoso tb_singleporeG_DT schematic (Aug 2024).
// Vestigial schematic probes (Vsquare, Vsin, Vramp, sw1, Rbias, R0) removed.
//
// Topology: same pore as tb_singleporeG.scs, but the continuous-time (CT) feedback 
// resistor Rf is replaced by a discrete-time (DT) reset switch (sm_sw_no) in parallel 
// with Cf (integrate-and-dump):
//
// Reset  phase (clk=Vclk_hi, duration (1-Ki)*Ts): sw closes, Cf discharged, out1→Vref
// Integrate phase (clk=0,    duration Ki*Ts):      sw open, Ipore integrates onto Cf,
//     out1 ramps by ΔV = −Ipore·Ki·Ts/Cf
//
// (1-Ki)*Ts ->  <- (reset phase)
//             <----- Ts ----->  
//                <---- Ti --->  (integration time, Ti=Ki·Ts)
//             ,-,             ,-,
//             | |             | |
//  -----------' '-------------' '-------
//
// Vclk -------------------,
//                 ,---- SWrst ---,
//                 |----- Cf -----|
// Vctrl ----,     |              |
// Vbias -- PORE1 --- -OpAmp \    |
//                 |          \   |
//                 Ci          X--+-,
//                            /     |
// Vref  ------------ +OpAmp /      Cl
//
// Key design variables:
//   Nanopore : gv, Ravg, Rp, Ra, Cm
//   Biasing  : Vbias (cis), Vref (trans / TIA reference)
//   DT TIA   : Cf, Ci, Cl
//   Clock    : Ts (period), Ki (integration fraction)
//   Stimulus : ft (mean event rate), Tp=1/ft

simulator lang=spectre

ahdl_include "../../../../models/verilogA/sm_anrz.va"
ahdl_include "../../../../models/verilogA/sm_sw_no.va"
include "../../netlist/nanopore.scs"

// -----------------------------------------------------------------------
// Parameters
// -----------------------------------------------------------------------
parameters \
    Vclk_hi=1.0  Ki=0.8                     \
    Cf=20f  Ci=5p  Cl=1f                    \
    Ravg=2.25G  Rp=1  Ra=1  gv=0.5  Cm=1f   \
    Vbias=600m  Vref=800m                   \
    ft=1k  Tp=1/ft                          \
    Ts=1/(4*ft)                             \
    samples=65536  fsamp=50*ft              \
    samptime=samples/fsamp                  \
    tstop=1.05*samptime  tstep=1/fsamp

// -----------------------------------------------------------------------
// Nanopore instance
// -----------------------------------------------------------------------
Vbias (bias 0) vsource dc=Vbias type=dc
Vref  (iplus 0) vsource dc=Vref  type=dc

XP1 (bias out ctrl) nanopore gv=gv Ravg=Ravg Rp=Rp Ra=Ra Cm=Cm

// -----------------------------------------------------------------------
// Pore output ammeter -> TIA virtual ground
// -----------------------------------------------------------------------
AMporeout (out amp_inp) vsource mag=0 type=dc

// -----------------------------------------------------------------------
// DT TIA: ideal op-amp (VCVS) + Cf feedback + sw_no reset + Ci/Cl parasitics
// -----------------------------------------------------------------------
OpAmp  (net034 0 iplus amp_inp) vcvs gain=1e6
Iprobe (net034 out1)                      iprobe
Cf     (amp_inp out1)         capacitor c=Cf
SWrst  (amp_inp out1 clk)     sm_sw_no vth=0.5 ron=1 roff=1e12 \
    tconv=0 trise=1n tfall=1n slack=1n vtol=10m
Ci     (amp_inp 0)            capacitor c=Ci
Cl     (out1  0)              capacitor c=Cl

// -----------------------------------------------------------------------
// Reset clock (Vclk_hi = reset/short Cf, 0 = integrate)
// -----------------------------------------------------------------------
Vclk (clk 0) vsource type=pulse val0=0 val1=Vclk_hi \
    period=Ts delay=Ts/10 rise=Ts/100 fall=Ts/100 width=(1-Ki)*Ts

// -----------------------------------------------------------------------
// Stimulus: random exponential pulse train on ctrl
// -----------------------------------------------------------------------
Vrand (ctrl) exp_pulse_train_2 Tp=Tp seed=21 l_hi=1 l_lo=-1 tdel=0 \
    trise=1n tfall=1n

// -----------------------------------------------------------------------
// Simulation
// -----------------------------------------------------------------------
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 \
    temp=27 tnom=27 maxnotes=5 maxwarns=5

tran1 tran stop=tstop step=tstep strobeperiod=tstep errpreset=moderate annotate=status

save out1 AMporeout:p clk
saveOptions options save=selected
